US07812022B2
N-(3-{3-[2-(1H-1,2,3-benzotriazol-5-ylamino)-4-pyrimidinyl]pyrazolo[1,5-a]pyridin-2-yl}phenyl)-2,6-difluorobenzamide
To a slurry of N-{3-[3-(2-chloro-4-pyrimidinyl)pyrazolo[1,5-a]pyridin-2-yl]phenyl}-2,6-difluorobenzamide (103 mg, 0.223 mmol.) in 1 mL of EtOH/0.5 mL of DMF, 1H-1,2,3-benzotriazol-5-amine (32 mg, 0.245 mmol) and 5 μL of conc. HCl, the reaction contents were heated to 80° C. After heating for 18 h, the reaction mixture was cooled to rt and partitioned between DCM and sat. aq. NaHCO3. The layers were separated, extracted the aqueous layer with DCM (2×10 mL), the organic layers were pooled, dried over MgSO4, filtered, reduced in vacuo. Addition of TFA, followed by titration with Et2O afforded the desired product as a yellow solid 93 mg, 63% yield. 1H NMR (400 MHz, d6-DMSO): δ 10.91 (s, 1H); 9.91 (s, 1H); 8.54 (d, J=7 Hz, 1H); 8.52-8.49 (m, 2H); 8.31 (d, J=5 Hz, 1H); 7.99 (s, 1H); 7.82 (t, J1=10 Hz, 2H); 7.60-7.53 (m, 2H); 7.50-7.45 (m, 2H); 7.37 (d, J=8 Hz, 1H); 7.23 (t, J=9 Hz, 2H); 7.13 (t, J=7 Hz, 1H); 6.55 (d, J=5 Hz, 1H). HRMS calculated C30H20F2N9O [M+H]+ 560.1759, found 560.1763.

reactant | N-{3-[3-(2-chloro-4-pyrimidinyl)pyrazolo[1,5-a]pyridin-2-yl]phenyl}-2,6-difluorobenzamide | 0.223 mmol, 103 mg | ClC1=NC=CC(=N1)C=1C(=NN2C1C=CC=C2)C=2C=C(C=CC2)NC(C2=C(C=CC=C2F)F)=O | C24H14ClF2N5O
reactant | DMF | CN(C)C=O | C3H7NO
reactant | 1H-1,2,3-benzotriazol-5-amine | 0.245 mmol, 32 mg | N1N=NC2=C1C=CC(=C2)N | C6H6N4
reactant | HCl | 5 μL | Cl | ClH
solvent | EtOH | 1 mL | CCO | C2H6O
product | N-(3-{3-[2-(1H-1,2,3-benzotriazol-5-ylamino)-4-pyrimidinyl]pyrazolo[1,5-a]pyridin-2-yl}phenyl)-2,6-difluorobenzamide | 93 mg, 63% yield | N1N=NC2=C1C=CC(=C2)NC2=NC=CC(=N2)C=2C(=NN1C2C=CC=C1)C=1C=C(C=CC1)NC(C1=C(C=CC=C1F)F)=O | C30H19F2N9O
